US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2-dimethylamino-ethyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=557.2 (M+H+), was prepared in accordance with the general method of example 48 from 8-(3,5-bis-trifluoromethyl-benzoyl)-3-(2-hydroxy-ethyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one and dimethylamine.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-3-(2-hydroxy-ethyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=C(C=CC=C3)C)CCO)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C25H25F6N3O3
reactant | dimethylamine | CNC | C2H7N
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2-dimethylamino-ethyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=C(C=CC=C3)C)CCN(C)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C27H30F6N4O2
